US07138425B2
b) 2-(3-Nitro-6-fluorophenyl)-5-bromo-7-fluorobenzoxazole
Prepared by the method of Example 15b), from N-(2-hydroxy-3-fluoro-5-bromophenyl)-2-fluoro-5-nitrobenzamide (858 mg, 2.3 mmol) and p-toluenesulfonic acid monohydrate (961 g, 5.1 mmol) the subtitle compound was obtained (475 mg, 58%). 1H NMR (DMSO) δ 8.91(m, 1H), 8.57(m, 1H), 8.06(s, 1H), 7.81(m, 3H).

reactant | N-(2-hydroxy-3-fluoro-5-bromophenyl)-2-fluoro-5-nitrobenzamide | 2.3 mmol, 858 mg | OC1=C(C=C(C=C1F)Br)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C13H7BrF2N2O4
reactant | p-toluenesulfonic acid monohydrate | 5.1 mmol, 961 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitro-6-fluorophenyl)-5-bromo-7-fluorobenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=C(C=C2F)Br | C13H5BrF2N2O3
